US06534531B2
N-[5-[[[5-(1,1-Dimethylethyl)-2-oxazolyl]methyl]thio]-2-thiazolyl]-4-piperidinecarboxamide, monohydrochloride
To a solution of 40 mL of absolute EtOH cooled in an ice-bath was added acetyl chloride (0.28 mL, 3.9 mmol) dropwise. The reaction mixture was allowed to warm to room temperature over 30 min then N-[5-[[[5-(1,1-dimethylethyl)-2-oxazolyl]methyl]-thio]-2-thiazolyl]-4-piperidinecarboxamide (1.50 g, 3.94 mmol, 1 eq) was introduced in one portion with stirring to give a thick slurry. Water (˜4 mL) was added until homogeneous then concentrated in vacuo to give a crude pale yellow solid. The crude material was recrystallized (aq EtOH) to afford the title compound (70%) as a white solid, mp 256-258°.

reactant | EtOH | 40 mL | CCO | C2H6O
reactant | acetyl chloride | 3.9 mmol, 0.28 mL | C(C)(=O)Cl | C2H3ClO
reactant | N-[5-[[[5-(1,1-dimethylethyl)-2-oxazolyl]methyl]-thio]-2-thiazolyl]-4-piperidinecarboxamide | 3.94 mmol, 1.50 g, 1 eq | CC(C)(C)C1=CN=C(O1)CSC1=CN=C(S1)NC(=O)C1CCNCC1 | C17H24N4O2S2
solvent | Water | ˜4 mL | O | H2O
product | N-[5-[[[5-(1,1-Dimethylethyl)-2-oxazolyl]methyl]thio]-2-thiazolyl]-4-piperidinecarboxamide, monohydrochloride | 70% | Cl.CC(C)(C)C1=CN=C(O1)CSC1=CN=C(S1)NC(=O)C1CCNCC1 | InChI=1S/C17H24N4O2S2.ClH/c1-17(2,3)12-8-19-13(23-12)10-24-14-9-20-16(25-14)21-15(22)11-4-6-18-7-5-11;/h8-9,11,18H,4-7,10H2,1-3H3,(H,20,21,22);1H
